US07700593B2
A heterogeneous mixture of 1-(4-bromopyridin-2-yl)-4-isopropylsemicarbazide (0.315 g, 1.15 mmol) in phosphorous oxychloride (1.06 mL, 11.5 mmol) was heated at 100° C. for 2 h. The homogenous solution was allowed to cool to RT. Toluene (10 mL) was added and removed in vacuo (3×). DCM (20 mL) and saturated sodium bicarbonate (aq.) was added to the solid and stirred. The off-white solid was collected by filtration and washed with DCM to give 7-bromo-N-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-3-amine. MS (ESI, pos. ion) m/z: 255.2 (M+1).

reactant | 1-(4-bromopyridin-2-yl)-4-isopropylsemicarbazide | 1.15 mmol, 0.315 g | BrC1=CC(=NC=C1)NNC(=O)NC(C)C | C9H13BrN4O
reactant | phosphorous oxychloride | 11.5 mmol, 1.06 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 7-bromo-N-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-3-amine | BrC1=CC=2N(C=C1)C(=NN2)NC(C)C | C9H11BrN4
